US05587504
Synthesis of 2-(4'-hydroxymethylphenyl)benzoic Acid
Water (6 ml) and sulfuric acid (3.6 g) were added to 2.0 g (7.11 mmol) of 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl-2-yl)oxazoline, followed by heating under reflux for 30 hours. After the reaction liquid was cooled, it was neutralized with a 10% aqueous solution of sodium hydroxide and extracted with chloroform. After the organic phase was washed with water and dried, it was subjected to vacuum concentration. The residue was purified by silica gel column chromatography (a chloroform/methanol system) to give 1.05 g of the title compound (yield 65%).

reactant | sulfuric acid | 3.6 g | S(O)(O)(=O)=O | H2O4S
reactant | 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl-2-yl)oxazoline | 7.11 mmol, 2.0 g | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)CO)C | C18H19NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Water | 6 ml | O | H2O
product | 2-(4'-hydroxymethylphenyl)benzoic Acid | 1.05 g, yield 65% | OCC1=CC=C(C=C1)C1=C(C(=O)O)C=CC=C1 | C14H12O3
